US08084477B2
Preparation of 3-fluoro-N′-hydroxy-4-methylbenzimidamide
To a suitable vessel equipped with mechanical stirrer under N2 atmosphere was charged 202.0 g of 3-fluoro-4-methylbenzonitrile followed by 1.0 L of ethanol. Hydroxylamine (144 mL of 50% solution in water) was added via addition funnel over 20 minutes. The mixture was stirred at ambient temperature until HPLC analysis showed that reaction was complete (no starting material remained). Water (3.0 L) was added dropwise to the pale yellow solution over 1 hour to give a thick slurry. The slurry was cooled in an ice water bath to 2° C. for 1.5 hours, filtered and dried under vacuum at 35° C. for 22 hours to give the title compound (230.3 g, 91.6%) as a white solid. 1H-NMR (CDCl3, 500 MHz) 67.30 (m, 2H), 7.19 (m, 1H), 4.87 (s, 2H), 2.28 (s, 3H); 13C-NMR (CDCl3, 500 MHz) δ162.15, 160.19, 151.58, 131.82, 131.76, 131.66, 131.62, 127.01, 126.87, 121.06, 112.69, 112.51, 14.48; 19F-NMR (CDCl3, 500 MHz) δ−116.35, −116.37, −116.39. LC-MS M+H169.19.

reactant | 3-fluoro-4-methylbenzonitrile | 202.0 g | FC=1C=C(C#N)C=CC1C | C8H6FN
reactant | ethanol | 1.0 L | C(C)O | C2H6O
reactant | Hydroxylamine | 144 mL | NO | H3NO
solvent | Water | 3.0 L | O | H2O
product | 3-fluoro-N′-hydroxy-4-methylbenzimidamide | 230.3 g, 91.6% | FC=1C=C(C(N)=NO)C=CC1C | C8H9FN2O
